US05932571
Synthesis of 4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt (0.57 g, 1.53 mmol) and dichloromethane (150 mL). Extract with a saturated aqueous solution of sodium bicarbonate, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Combine the residue and methanol (50 mL). Cool in an ice bath. Add aqueous hydriodic acid (0.194 g, 57%, 1.52 mmol). After 30 minutes, evaporate to remove most of the methanol and triturate with diethyl ether (150 mL) to give a solid. Decant the solvent, add diethyl ether (150 mL) and collect the solid by filtration to give, after drying, the title compound.

reactant | 4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydrochloric acid salt | 1.53 mmol, 0.57 g | Cl.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 1.52 mmol, 0.194 g | I | HI
solvent | methanol | 50 mL | CO | CH4O
product | 4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H20N4O.HI/c1-2-7-16-15(6-1)19-17(20-10-4-8-18-9-11-20)21(16)13-14-5-3-12-22-14;/h1-3,5-7,12,18H,4,8-11,13H2;1H
